US05041655
In accordance with a preferred embodiment of the invention, the reaction mixture is prepared in such a manner that an aqueous, optionally aqueous-alcoholic solution of hexamethylene diamine is compounded with aqueous hydrochloric acid, forming hexamethylene diamine dihydrochloride; the aqueous solution with a pH between 5 and 6 is then brought together, if not already present, with the alcohol, the alkali dicyanamide and the catalyst. The aqueous hexamethylene diamine dihydrochloride solution can be added directly to the alcoholic suspension of a alkali dicyanamide, in which instance the temperature of the suspension can be in the range from room temperature up to approximately 100° C. It is also possible to proceed in the reverse manner, that is, to place an aqueous-alcoholic, very fine suspension of hexamethylene diamine dihydrochloride formed in situ and with a milky appearance in a flask and to add alkali dicyanamide and to adjust the pH by the addition of the catalytically active base.

reactant | hexamethylene diamine | NCCCCCCN | C6H16N2
reactant | hydrochloric acid | Cl | ClH
product | hexamethylene diamine dihydrochloride | Cl.Cl.NCCCCCCN | InChI=1S/C6H16N2.2ClH/c7-5-3-1-2-4-6-8;;/h1-8H2;2*1H
